US06653471B2
A mixture of 130 mg (0.53 mmol) of 3,4,5,6-Tetrahydro-3,5,10-triaza-benzo[e]azulene-1-carboxylic acid methyl ester and 0.6 mL (0.6 mmol of benzaldehyde is dissolved in 10 mL of dichloroethane. To this solution is added 270 mg (1.3 mmol) of sodium triacetoxyborohydride and the resulting mixture is stirred for 18 hours at room temperature. A 10 mL solution of saturated Na2HCO3 is added, and the reaction stirred for 60 minutes. The organic layer is separated from the aqueous layer, dried (Na2SO4) and evaporated. The residue is chromatographed on 10 grams of silica gel using 50/1 chloroform/methanol as the eluant. Appropriate fractions are combined to yield 118 mg of 5-benzyl-3,4,5,6-tetrahydro-3,5,10-triaza-benzo[e]azulene-1-carboxylic acid methyl ester. 1H NMR (CDCl3) δ10.1 (s, 1H), 8.6 (d, 1H), 7.55 (d, 1H), 7.3 (m, 6H), 7.1 (m, 1H), 3.70 (s, 3H), 3.60 (s, 2H), 3.55 (s, 2H), 3.35 (s, 2H). Mass spectrum: m/e 334.3 (p +1). TLC (10/1 chloroform/methanol) Rf=0.15.

reactant | 3,4,5,6-Tetrahydro-3,5,10-triaza-benzo[e]azulene-1-carboxylic acid methyl ester | 0.53 mmol, 130 mg | COC(=O)C1=CNC=2CNCC3=C(C12)N=CC=C3 | C13H13N3O2
reactant | benzaldehyde | 0.6 mmol | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium triacetoxyborohydride | 1.3 mmol, 270 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 10 mL | ClC(C)Cl | C2H4Cl2
product | 5-benzyl-3,4,5,6-tetrahydro-3,5,10-triaza-benzo[e]azulene-1-carboxylic acid methyl ester | 118 mg | COC(=O)C1=CNC=2CN(CC3=C(C12)N=CC=C3)CC3=CC=CC=C3 | C20H19N3O2
